US06486155B1
To a solution of 2-(3-bromo-4,5-dimethoxybenzoyl)-4,5-dimethoxy-benzoic acid (6 g) in dimethylformamide (110 ml) are added potassium carbonate (4.29 g) and diethyl bromomalonate (3.71 g), and the mixture is stirred at room temperature overnight. The reaction mixture is evaporated to remove dimethylformamide, and to the residue are added ethyl acetate and water. The ethyl acetate layer is separated, washed, dried, and concentrated under reduced pressure. To the residue are added dioxane (35 ml) and conc. hydrochloric acid (35 ml), and the mixture is heated under reflux for five hours. The reaction mixture is cooled, and thereto are added chloroform and water. The chloroform layer is separated, washed, dried, and concentrated under reduced pressure. The residue is crystallized from ether to give 4-(3-bromo-4,5-dimethoxyphenyl)-6,7-dimethoxyisocoumarin-3-carboxylic acid (2.54 g) as listed in Table 58.

reactant | 2-(3-bromo-4,5-dimethoxybenzoyl)-4,5-dimethoxy-benzoic acid | 6 g | BrC=1C=C(C(=O)C2=C(C(=O)O)C=C(C(=C2)OC)OC)C=C(C1OC)OC | C18H17BrO7
reactant | potassium carbonate | 4.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl bromomalonate | 3.71 g | BrC(C(=O)OCC)C(=O)OCC | C7H11BrO4
solvent | dimethylformamide | 110 ml | CN(C=O)C | C3H7NO
product | 4-(3-bromo-4,5-dimethoxyphenyl)-6,7-dimethoxyisocoumarin-3-carboxylic acid | 2.54 g | BrC=1C=C(C=C(C1OC)OC)C1=C(OC(=O)C2=CC(=C(C=C12)OC)OC)C(=O)O | C20H17BrO8
